US06833378B2
4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid methyl ester
A mixture of 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester, trimethylaniline, potassium carbonate, copper in DMF was heated at reflux. The mixture was quenched with ammonium chloride and stirred for 20 min, filtered through celite and washed with ethyl acetate. The filtrate was extracted with ethyl acetate. The organic layer was separated, dried and concentrated to dryness. The residue was purified through silica gel column chromatography using 2% methanol in chloroform as eluent to give the title compound as a solid.

reactant | 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CC)C)Cl)=O | C13H19ClN2O2
reactant | trimethylaniline | CC1=C(N(C)C)C=CC=C1 | C9H13N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CC)C)NC1=C(C=C(C=C1C)C)C)=O | C22H31N3O2
